US07253286B2
N-(4-(7-(Benzyloxy)-6-cyano-4-quinolyl)oxyphenyl)-N′-(3-(methylsulfonyl)phenyl)urea
After dissolving 4-(4-aminophenoxy)-7-(benzyloxy)-6-cyanoquinoline (919 mg, 2.5 mmol) in dimethylsulfoxide (10 ml), phenyl N-(3-(methylsulfonyl)phenyl)carbamate (801 mg, 2.75 mmol) was added and the mixture was heated at 85° C. for 2 hours. The reaction solution was diluted with ethyl acetate and then washed with IN aqueous sodium hydroxide (10 ml), water (20 ml×2) and saturated brine (10 ml) and dried over anhydrous sodium sulfate. After filtering off the drying agent, the filtrate was concentrated under reduced pressure and the residue was suspended in ethyl acetate (30 ml), after which hexane (30 ml) was added, sonication was performed and the precipitated crystals were filtered out and dried under reduced pressure to obtain the title compound (1.43 g, 2.5 mmol, quantitative) as light brown crystals.

reactant | 4-(4-aminophenoxy)-7-(benzyloxy)-6-cyanoquinoline | 2.5 mmol, 919 mg | NC1=CC=C(OC2=CC=NC3=CC(=C(C=C23)C#N)OCC2=CC=CC=C2)C=C1 | C23H17N3O2
reactant | phenyl N-(3-(methylsulfonyl)phenyl)carbamate | 2.75 mmol, 801 mg | CS(=O)(=O)C=1C=C(C=CC1)NC(OC1=CC=CC=C1)=O | C14H13NO4S
solvent | dimethylsulfoxide | 10 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(4-(7-(Benzyloxy)-6-cyano-4-quinolyl)oxyphenyl)-N′-(3-(methylsulfonyl)phenyl)urea | 2.5 mmol, 1.43 g | C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)OC1=CC=C(C=C1)NC(=O)NC1=CC(=CC=C1)S(=O)(=O)C)C#N | C31H24N4O5S
